US07517875B2
3,4-Diaminobenzoic acid (2.003 g, 13.17 mmol) and triphenylphosphine (4.248 g, 16.20 mmol) were suspended in toluene (20 ml) and tetrahydrofuran (10 ml). Ethanol (2 ml) was then added, diisopropyl azodicarboxylate (2.5 ml, 9.96 mmol) was added dropwise to the obtained light brown suspension, and the mixture was stirred at room temperature for 3.5 hours. Isopropyl azodicarboxylate (1.5 ml, 5.98 mmol) was further added dropwise, the mixture was stirred at room temperature for 1 hour, and the obtained reaction mixture was extracted with 1N hydrochloric acid (100 ml×2 times), after which the aqueous layer was washed with 50 ml of ethyl acetate. After adding 2N aqueous sodium hydroxide to the aqueous layer to raise the pH to 11 or higher, the precipitate was extracted with ethyl acetate (100 ml×2 times). The organic layer was washed with saturated brine (50 ml) and dried overnight over anhydrous sodium sulfate. The desiccant was filtered out and the filtrate was concentrated to obtain 3,4-diaminobenzoic acid ethyl ester as a faint yellow solid. The compound was identified by LC-MS.

reactant | 3,4-Diaminobenzoic acid | 13.17 mmol, 2.003 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | triphenylphosphine | 16.20 mmol, 4.248 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 9.96 mmol, 2.5 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Isopropyl azodicarboxylate | 5.98 mmol, 1.5 ml | N(=NC(=O)[O-])C(=O)OC(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Ethanol | 2 ml | C(C)O | C2H6O
product | 3,4-diaminobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)N)N)=O | C9H12N2O2
